US06610723B2
3-(3,4-Dichloro-phenyl)-5-(2-ethyl-imidazol-1-yl-methyl)-pyridine Hydrochloride (1:1)
The title compound, MS: m/e=332.2 (M+H+) was obtained as an orange solid (49% yield) by the reaction of 3-chloromethyl-5-(3,4-dichloro-phenyl)-pyridine hydrochloride (1:1) with 2-ethylimidazole, using sodium hydride and triethylamine as base followed by formation of the hydrochloride salt.

reactant | 3-chloromethyl-5-(3,4-dichloro-phenyl)-pyridine hydrochloride | Cl.ClCC=1C=NC=C(C1)C1=CC(=C(C=C1)Cl)Cl
reactant | 2-ethylimidazole | C(C)C=1NC=CN1 | C5H8N2
product | 3-(3,4-Dichloro-phenyl)-5-(2-ethyl-imidazol-1-yl-methyl)-pyridine Hydrochloride | Cl.ClC=1C=C(C=CC1Cl)C=1C=NC=C(C1)CN1C(=NC=C1)CC | InChI=1S/C17H15Cl2N3.ClH/c1-2-17-21-5-6-22(17)11-12-7-14(10-20-9-12)13-3-4-15(18)16(19)8-13;/h3-10H,2,11H2,1H3;1H
